US04120906
Six milliliters (78 millimoles) of thionyl bromide are added to 20 ml of a solution of 5.36 g (32 millimoles) of tricyclo [4.3.1.12,5 ] undecane-1-ol in dry benzene and the entirety is refluxed for 1.5 hours. The reaction mixture is concentrated under reduced pressure and there is further added 20 ml of dry benzene. Reduced pressure concentration is repeated to distill out the excess thionyl chloride completely. The residue is distilled under reduced pressure to collect a fraction boiling at 96°-8° C./2mmHg. Thus 4.53 g (yield 61.3%) of 1-bromotricyclo [4.3.1.12,5 ] undecane are obtained. After cooling, colorless crystals having a melting point of 57.7°-58.5° C. are obtained. The properties of this product are the same as those shown in Example 1.

reactant | thionyl bromide | 78 millimoles, Six milliliters | S(=O)(Br)Br | Br2OS
reactant | tricyclo [4.3.1.12,5 ] undecane-1-ol | 32 millimoles, 5.36 g | C12(C3CCC(C(CCC1)C2)C3)O | C11H18O
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 1-bromotricyclo [4.3.1.12,5 ] undecane | 4.53 g, yield 61.3% | BrC12C3CCC(C(CCC1)C2)C3 | C11H17Br
